US09302989B2
N-{4-[1-(tetrahydrofuran-3-ylcarbonyl)piperidin-4-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 1C, substituting N-(4-(piperidin-4-yl)phenyl)isoindoline-2-carboxamide for 3-phenylpropan-1-amine and tetrahydrofuran-3-carboxylic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.26 (s, 1H), 7.46 (m, 2H), 7.31 (m, 4H), 7.12 (m, 2H), 4.74 (bs, 4H), 4.53 (m, 1H), 4.05 (m, 1H), 3.87 (m, 1H), 3.70 (m, 3H), 3.36 (m, 2H), 3.12 (m, 1H), 2.75-2.58 (m, 1H), 2.01 (m, 2H), 1.76 (m, 2H), 1.45 (m, 2H); MS (ESI(+)) m/e 420 (M+H).

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | tetrahydrofuran-3-carboxylic acid | O1CC(CC1)C(=O)O | C5H8O3
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-{4-[1-(tetrahydrofuran-3-ylcarbonyl)piperidin-4-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide | O1CC(CC1)C(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C25H29N3O3
